US07528134B2
N-(3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-ylmethyl)-3-methoxybenzamide
3-Methoxybenzamide (1.13 g, 7.5 mmol), K2CO3 (345 mg, 2.5 mmol), paraformaldehyde (0.5 g, 16 mmol), and 1′,2′,3′,6′-tetrahydro-2,4′-bipyridine hydrochloride (393 mg, 2 mmol) were combined in ethanol (25 ml) and refluxed for 18 hours. The reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure. The residue was partitioned between ethyl acetate (80 mL) and water (80 mL). The organic layer was washed with brine (2×50 mL), dried over MgSO4, filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (elution with ethyl acetate:ethanol, 9.0:1.0) to provide the title compound (180 mg, 49% yield). 1H NMR (300 MHz, DMSO-d6) δ 2.58 (m, 2H), 2.76 (t, 2H, J=6 Hz), 3.29 (m, 2H), 3.80 (s, 3H), 4.27 (d, 2H, J=6 Hz), 6.70 (m, 1H), 7.09 (m, 1H), 7.22 (m, 1H), 7.42 (m, 4H), 7.72 (m, 1H), 8.51 (m, 1H), 8.83 (t, 1H, J=6 Hz); MS (DCI/NH3) m/e 324 (M+H)+.

reactant | 3-Methoxybenzamide | 7.5 mmol, 1.13 g | COC=1C=C(C(=O)N)C=CC1 | C8H9NO2
reactant | K2CO3 | 2.5 mmol, 345 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | paraformaldehyde | 16 mmol, 0.5 g | C=O | CH2O
reactant | 1′,2′,3′,6′-tetrahydro-2,4′-bipyridine hydrochloride | 2 mmol, 393 mg | Cl.N1=C(C=CC=C1)C=1CCNCC1
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-(3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-ylmethyl)-3-methoxybenzamide | 180 mg, 49% yield | N1=C(C=CC=C1)C=1CCN(CC1)CNC(C1=CC(=CC=C1)OC)=O | C19H21N3O2
